US08309746B2
Synthesis of 3β,7β-bis-(trimethylsiloxy)-5-androsten-17-one:
A mixture of 14.87 Kg of androst-5-en-17-one-3β,7β-diol, 23.8 Kg HMDS and 0.7 Kg saccharin catalyst in 100 L acetonitrile was heated to reflux for 8 hours with stirring under a nitrogen atmosphere. Liberated ammonia was purged under slight vacuum. The reaction volume was then reduced by distillation to collect 30 L of distillate (requires about 2 h). The reaction volume was further reduced to half of the original reaction volume by distillation under reduced pressure (700 mmHg), which requires about 2 h of heating at 50° C. The resulting uniform thick slurry is cooled to 5° C. (requires about 3 h), with additional acetonitrile added to maintain a minimum mixing volume, and held at that temperature for 1. The precipitated product was collected by filtration and dried at 45-50° C. under vacuum (29 mmHg) to a loss on drying (LOD) of not more than 1% (requires 20 h) to provide 16 Kg (81% yield) of the title compound (95% purity).

reactant | androst-5-en-17-one-3β,7β-diol | 14.87 Kg | C[C@@]12C(CC[C@H]1[C@@H]1[C@H](C=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)=O | C19H28O3
reactant | HMDS | 23.8 Kg | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
catalyst | saccharin | 0.7 Kg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | acetonitrile | 100 L | C(C)#N | C2H3N
product | 3β,7β-bis-(trimethylsiloxy)-5-androsten-17-one | 16 Kg, 81% yield | C[Si](O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O[Si](C)(C)C)(C)C | C25H44O3Si2
